US07371747B2
To (1R/S,3R/S,6R/S)-2-{[(4-fluorophenyl)sulfanyl]methyl}-5-methylcyclohexanecarboxylic acid and (1R/S,3S/R,6R/S)-2-{[(4-fluorophenyl)sulfanyl]methyl}-5-methylcyclohexanecarboxylic acid (1:1 mixture, 52 mg, 0.18 mmol), PyBOP (144 mg, 0.28 mmol), and aminoacetonitrile hydrochloride (34 mg, 0.37 mmol) was added dry dimethylformamide (2 mL) under an atmosphere of dry nitrogen followed by triethylamine (103 μL, 0.74 mmol) and the reaction mixture was stirred for 5 h at room temperature. The reaction mixture was poured into aqueous saturated sodium hydrogen carbonate, extracted with ethyl acetate, and dried over anhydrous sodium sulfate. The solvent was concentrated in vacuo and the crude product was purified by flash chromatography over silica gel (ethyl acetate/hexanes, 30/70 to 50/50) to yield (1R/S,3R/S,6R/S)-N-(cyanomethyl)-2-{[(4-fluorophenyl)sulfanyl]-methyl}-5-methylcyclohexanecarboxamide and (1R/S,3S/R,6R/S)-N-(cyanomethyl)-2-{[(4-fluorophenyl)sulfanyl]methyl}-5-methylcyclohexanecarboxamide as a 1:1 mixture of diastereomers.

reactant | 2-{[(4-fluorophenyl)sulfanyl]methyl}-5-methylcyclohexanecarboxylic acid | 0.18 mmol, 52 mg | FC1=CC=C(C=C1)SCC1C(CC(CC1)C)C(=O)O | C15H19FO2S
reactant | PyBOP | 0.28 mmol, 144 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | aminoacetonitrile hydrochloride | 0.37 mmol, 34 mg | Cl.NCC#N
reactant | triethylamine | 0.74 mmol, 103 μL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-(cyanomethyl)-2-{[(4-fluorophenyl)sulfanyl]methyl}-5-methylcyclohexanecarboxamide | C(#N)CNC(=O)C1C(CCC(C1)C)CSC1=CC=C(C=C1)F | C17H21FN2OS
